US07262169B1
Step 2: Boc-Trans-4-Hydroxy-L-Proline Pentafluorophenyl Ester
Boc-trans-4-hydroxy-L-proline (3.5 kg) and pentafluorophenol (3.06 kg) were dissolved in ethyl acetate (52 L). The solution was treated with a solution of dicyclohexylcarbodiimide (3.43 kg) in ethyl acetate (8 L) and the mixture was stirred at room temperature for 2 hours. The resulting slurry was cooled to 0° C., filtered and the solids washed with ethyl acetate (15 L). The filtrate was evaporated at atmospheric pressure to a volume of 10 L and diluted with hexane (100 L). The resulting mixture was stirred at room temperature overnight and then cooled to 0° C. for 1 hour. The solid was collected by filtration, washed with cold (° C.) 10:1 hexane/ethyl acetate (15 L) and dried at 45° C. in vacuo to afford the title compound as a white crystalline solid. Yield: 5.478 kg, 91%. HPLC; >99 A %.

reactant | Boc-trans-4-hydroxy-L-proline | 3.5 kg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
reactant | pentafluorophenol | 3.06 kg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexylcarbodiimide | 3.43 kg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 52 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8 L | C(C)(=O)OCC | C4H8O2
product | Boc-Trans-4-Hydroxy-L-Proline Pentafluorophenyl Ester | FC1=C(C(=C(C(=C1OC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O)F)F)F)F | C16H16F5NO5
